US06355636B1
4-Dimethylamino-but-2-enoic acid [5-(3-bromo-phenylamino)-6-cyano-[1.8]naphthyridin-3-yl]-amide
To a suspension of 2.5 g (7.35 mmol) of 6-amino-4-(3-bromo-phenylamino)-[1.8]naphthyridine-3-carbonitrile and 0.95 g (7.35 mmol) of disopropylethyl amine in 40 ml tetrahydrofuran at 0° C., with stirring, was added 1.42 g (7.72 mmol) of 4-bromo-2-butenoyl chloride followed by 5 ml of N-methyl pyrrolidone. After 1 hr, 55 ml of 2M dimethylamine in tetrahydrofuran was added. After 30 min, the solvents were removed. The mixture was mixed with ethyl acetate and saturated sodium bicarbonate. The organic layer was dried over magnesium sulfate and the solvent was removed. The product was purified by chromatography on silica gel eluting first with ethyl acetate-methanol 9:1 to remove less polar impurities and then with acetate-methanol-triethyl amine 40:10:1 to elute 0.49 g of the product which was obtained as and orange powder: mass spectrum (electrospray, m/e): M+H 450.9,453.0; (M+2H)+2 226.7, 225.8.

reactant | 6-amino-4-(3-bromo-phenylamino)-[1.8]naphthyridine-3-carbonitrile | 7.35 mmol, 2.5 g | NC=1C=C2C(=C(C=NC2=NC1)C#N)NC1=CC(=CC=C1)Br | C15H10BrN5
reactant | 4-bromo-2-butenoyl chloride | 7.72 mmol, 1.42 g | BrCC=CC(=O)Cl | C4H4BrClO
reactant | N-methyl pyrrolidone | 5 ml | CN1C(CCC1)=O | C5H9NO
reactant | dimethylamine | 2M, 55 ml | CNC | C2H7N
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 4-Dimethylamino-but-2-enoic acid [5-(3-bromo-phenylamino)-6-cyano-[1.8]naphthyridin-3-yl]-amide | BrC=1C=C(C=CC1)NC1=C2C=C(C=NC2=NC=C1C#N)NC(C=CCN(C)C)=O | C21H19BrN6O
